US04144248
p-Dimethylaminobenzaldehyde (12.953 g) was dissolved in 30 ml of tetrahydrofuran, and 18.428 g of FAMSO and 12 ml of a 40% methanol solution of trimethylbenzylammonium hydroxide were added. The mixture was heated under reflux for 40 hours. Water was added, and the reaction mixture was acidified with acetic acid and then extracted with methylene chloride. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using methylene chloride/ethyl acetate as an eluant, and then recrystallized from diethyl ether to afford 13.492 g of 1-methylsulfinyl-1-methylthio-2-(p-dimethylaminophenyl)ethylene.

reactant | p-Dimethylaminobenzaldehyde | 12.953 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | FAMSO | 18.428 g | CSCS(=O)C | C3H8OS2
reactant | methanol | CO | CH4O
reactant | trimethylbenzylammonium hydroxide | [OH-].C[N+](CC1=CC=CC=C1)(C)C
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | 1-methylsulfinyl-1-methylthio-2-(p-dimethylaminophenyl)ethylene | 13.492 g | CS(=O)C(=CC1=CC=C(C=C1)N(C)C)SC | C12H17NOS2
